US06380238B1
6-Ethylthio-5-fluoroindole-2,3-dione was prepared from 5,6-difluoroindole-2,3-dione using sodium thioethoxide according to the method described in the synthesis of 5-fluoro-6-methylthioindole as a brown solid (2.53 g, 19%): mp 215° C.; IR νmax (Nujol)/cm−1 3286, 2926, 2855, 1766, 1712, 1619, 1467 and 1038; NMR δH (400 MHz, DMSO-d6) 1.32 (3H, t, J 7.5 Hz), 3.13 (2H, q, J 7.5 Hz), 6.77 (1H, d, J 6.0 Hz), 7.39 (1H, d, J 8.5 Hz), 10.97 (1H, brs).

reactant | 5,6-difluoroindole-2,3-dione | FC=1C=C2C(C(NC2=CC1F)=O)=O | C8H3F2NO2
reactant | sodium thioethoxide | [S-]CC.[Na+]
reactant | 5-fluoro-6-methylthioindole | 2.53 g | FC=1C=C2C=CNC2=CC1SC | C9H8FNS
product | 6-Ethylthio-5-fluoroindole-2,3-dione | C(C)SC1=C(C=C2C(C(NC2=C1)=O)=O)F | C10H8FNO2S
